US03953469
A. Preparation of 2,3,4,5-Tetrahydro-2-phenyl-1,5-benzothiazepine
A slurry of 24 g. of lithium aluminum hydride in 950 ml. of dry tetrahydrofuran is treated portionwise with 140 g. of finely-divided 2,3-dihydro-2-phenyl-1,5-benzothiazepin-4-one. The reaction is exothermic and the mixture is allowed to reflux during the addition. After stirring for 2 hours at room temperature, the mixture is refluxed for 3 hours, cooled and treated dropwise with 30 ml. of water and then a solution of 16 g. of sodium hydroxide in 100 ml. of water. The organic phase is filtered from the inorganic salt, washed with ether and the filtrate dried over magnesium sulfate. After evaporation of the solvent, the residue is fractionated to give 118.5 g. of liquid, b.p. 179°-181° (0.2 mm). The distillate slowly crystallized to a yellow solid, m.p. 62°-64°. A sample crystallized from isopropyl ether gave a granular colorless product, m.p. 65°-67°.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2,3-dihydro-2-phenyl-1,5-benzothiazepin-4-one | C1(=CC=CC=C1)C1SC2=C(NC(C1)=O)C=CC=C2 | C15H13NOS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,3,4,5-Tetrahydro-2-phenyl-1,5-benzothiazepine | C1(=CC=CC=C1)C1SC2=C(NCC1)C=CC=C2 | C15H15NS
